US09360482B2
Methyl 4-[1-acetyl-4-(formylamino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate
To a suspension of intermediate 3 (1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide (62.24 g) in DME (600 ml) was added palladium tetrakis (11.56 g) at room temperature. After 10 min of stirring, were added {4-[(methyloxy)carbonyl]phenyl}boronic acid (54 g) and a 2N solution of Na2CO3 (300 mL) and the mixture was stirred heated to reflux for 16 h. The mixture was concentrated under reduced pressure. After addition of 200 ml of DCM to the residue, the product precipitated, it was filtered and washed with water (3*100 mL). To remove the rest of the water, the solid was washed with isopropyl ether (100 ml), the solid was then added to 220 ml of warm isopropyl ether and the resulting mixture was left in the sonicator. The solid was filtered off and dried to afford the title compound as a beige solid (64.7 g)

reactant | (1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide | 62.24 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)Br)NC=O)C | C13H15BrN2O2
reactant | {4-[(methyloxy)carbonyl]phenyl}boronic acid | 54 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | Na2CO3 | 300 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 600 ml | COCCOC | C4H10O2
catalyst | palladium tetrakis | 11.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-[1-acetyl-4-(formylamino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | 64.7 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)C1=CC=C(C(=O)OC)C=C1)NC=O)C | C21H22N2O4
